* source BD00C0AWFP
R_RESR2         VOUT N17717  10m TC=0,0 
C_CIN         0 N17711  1u  TC=0,0 
R_R2         VOUT ADJ  56.7k TC=0,0 
X_U1         CTL VCC 0 VOUT ADJ 0 BD00C0AWFP
R_RESR1         VCC N17711  10m TC=0,0 
R_R1         ADJ 0  10k TC=0,0 
C_COUT         0 N17717  2.2u  TC=0,0 
V_VCC         VCC 0 DC 13.5  
V_VCTL         CTL 0 DC 5  
