* source BD00C0AWFP
R_RESR2         VOUT N12366  10m TC=0,0 
X_U1         N12126 VCC 0 VOUT ADJ 0 BD00C0AWFP
C_CIN         0 N12360  1u  TC=0,0 
V_VCC         VCC 0 DC 13.5  
C_COUT         0 N12366  2.2u  TC=0,0 
R_RESR1         VCC N12360  10m TC=0,0 
V_VCTL         N12126 0 DC 5  
I_IOUT         VOUT 0 DC 0Adc AC 0Aac
+PULSE 5m 500m 300u {10u/0.8} {10u/0.8} 400u 
R_R2         VOUT ADJ  56.7k TC=0,0 
R_R1         ADJ 0  10k TC=0,0 
