* source BD00C0AWFP
V_CTL2         N41970 0 DC 5  
I_I3         VO4 0 DC 1  
R_R8         N39274 0  10k TC=0,0 
V_VCC6         N41990 0 DC 26.5  
V_VCC7         N39282 0 DC 13.5  
C_CIN3         0 N40056  1u  TC=0,0 
V_VCC1         N40668 0 DC 13.5  
R_ESR12         VO1 N41432  10m TC=0,0 
V_CTL3         N39262 0 DC 5  
C_COUT3         0 N40062  2.2u  TC=0,0 
I_I2         VO3 0 DC 5m  
C_CIN1         0 N41396  1u  TC=0,0 
R_ESR2         N39254 N40032  10m TC=0,0 
C_COUT5         0 N41432  2.2u  TC=0,0 
C_COUT1         0 N41402  2.2u  TC=0,0 
C_COUT4         0 N42772  2.2u  TC=0,0 
R_R14         N41998 0  10k TC=0,0 
V_CTL4         N42002 0 DC 5  
V_VCC8         N40700 0 DC 13.5  
R_ESR11         N40684 N41426  10m TC=0,0 
R_R2         N39258 N39254  56.7k TC=0,0 
R_R10         N42014 0  10k TC=0,0 
R_R5         N41982 N41978  56.7k TC=0,0 
R_ESR7         VCC N40056  10m TC=0,0 
R_R3         N40676 N40672  56.7k TC=0,0 
R_ESR6         N41978 N42700  10m TC=0,0 
C_COUT7         0 N40098  2.2u  TC=0,0 
V_CTL7         N39278 0 DC 5  
V_CTL1         N40664 0 DC 5  
R_ESR10         N42010 N42772  10m TC=0,0 
C_CIN5         0 N41426  1u  TC=0,0 
V_VCC2         N41974 0 DC 13.5  
V_CTL6         N41986 0 DC 5  
R_ESR8         VOUT N40062  10m TC=0,0 
R_R12         N40692 0  10k TC=0,0 
R_ESR3         N40668 N41396  10m TC=0,0 
R_R6         N41982 0  10k TC=0,0 
C_CIN7         0 N40092  1u  TC=0,0 
R_R13         N41998 VO2  56.7k TC=0,0 
R_R11         N40692 VO1  56.7k TC=0,0 
R_ESR14         VO2 N42736  10m TC=0,0 
R_R1         N39258 0  10k TC=0,0 
C_CIN6         0 N42730  1u  TC=0,0 
V_VCC5         N40684 0 DC 6  
C_COUT8         0 N41468  2.2u  TC=0,0 
I_I1         VOUT 0 DC 500m  
V_CTL         N39246 0 DC 0  
C_COUT6         0 N42736  2.2u  TC=0,0 
R_R4         N40676 0  10k TC=0,0 
R_ESR15         N39282 N40092  10m TC=0,0 
C_CIN8         0 N41462  1u  TC=0,0 
V_VCC         N39250 0 DC 13.5  
C_COUT2         0 N42700  2.2u  TC=0,0 
R_R22         N40708 0  10k TC=0,0 
R_R20         N40708 VO4  56.7k TC=0,0 
R_ESR17         N40700 N41462  10m TC=0,0 
C_CIN4         0 N42766  1u  TC=0,0 
R_ESR1         N39250 N40026  10m TC=0,0 
C_CIN2         0 N42694  1u  TC=0,0 
R_ESR5         N41974 N42694  10m TC=0,0 
C_COUT         0 N40032  2.2u  TC=0,0 
R_ESR16         VO3 N40098  10m TC=0,0 
V_CTL5         N40680 0 DC 5  
R_R7         N39274 VOUT  56.7k TC=0,0 
R_ESR18         VO4 N41468  10m TC=0,0 
V_VCC4         N42006 0 DC 13.5  
R_R17         N39290 VO3  56.7k TC=0,0 
R_ESR9         N42006 N42766  10m TC=0,0 
R_R9         N42014 N42010  56.7k TC=0,0 
R_R23         0 N41978  {5/50m} TC=0,0 
R_ESR13         N41990 N42730  10m TC=0,0 
V_VCC3         VCC 0 DC 4.75  
R_ESR4         N40672 N41402  10m TC=0,0 
R_R19         N39290 0  10k TC=0,0 
C_CIN         0 N40026  1u  TC=0,0 
V_CTL8         N40696 0 DC 5  
X_U10         N39246 N39250 0 N39254 N39258 0 BD00C0AWFP
X_U11         N40664 N40668 0 N40672 N40676 0 BD00C0AWFP
X_U12         N41970 N41974 0 N41978 N41982 0 BD00C0AWFP
X_U13         N39262 VCC 0 VOUT N39274 0 BD00C0AWFP
X_U14         N40680 N40684 0 VO1 N40692 0 BD00C0AWFP
X_U15         N41986 N41990 0 VO2 N41998 0 BD00C0AWFP
X_U16         N39278 N39282 0 VO3 N39290 0 BD00C0AWFP
X_U17         N40696 N40700 0 VO4 N40708 0 BD00C0AWFP
X_U18         N42002 N42006 0 N42010 N42014 0 BD00C0AWFP
E_E4         DROPOUTVOLTAGE 0 VCC VOUT 1
E_E6         LOADREGULATION 0 VO3 VO4 1
E_E5         LINEREGULATION 0 VO2 VO1 1
