* source BD00C0AWFP
R_RL         VOUT 0  {5/100m} TC=0,0 
R_RESR1         VCC N18052  10m TC=0,0 
X_U1         CTL VCC 0 VOUT ADJ 0 BD00C0AWFP
R_RESR2         VOUT N18058  10m TC=0,0 
R_R2         VOUT ADJ  56.7k TC=0,0 
V_VCC         VCC 0 DC 13.5 AC 2.83 
R_R1         ADJ 0  10k TC=0,0 
C_COUT         0 N18058  2.2u  TC=0,0 
C_CIN         0 N18052  1u  TC=0,0 
V_VCTL         CTL 0 DC 5  
